US04374139
(-)-2-Acetyl-N-methylmorphinan d-tartrate 0.25 g was suspended in water and made basic with concentrated ammonium hydroxide. The resulting suspension was extracted with ether. The combined ether extracts were washed with water and dried over magnesium sulfate. Removal of the solvent gave the crude (-)-2-acetyl-N-methylmorphinan. For analysis, this compound was distilled, bp 175°-180° (0.1 mm), [α]25D-55.67° (c 1.04, MeOH).

reactant | (-)-2-Acetyl-N-methylmorphinan d-tartrate | 0.25 g | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.C(C)(=O)C1=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C=C1)CCN3C
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | (-)-2-acetyl-N-methylmorphinan | C(C)(=O)C1=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C=C1)CCN3C | C19H25NO
